US05643878
a) p-Benzyloxybenzyl Iodide
A solution of 1.0 g (4.3 mmol) of 4-benzyloxybenzyl chloride (Fluka; Buchs/Switzerland) in 8 ml of acetone is stirred at RT with 3.13 g (20.9 mmol) of sodium iodide. According to a gas chromatrogram, the reaction is complete after 90 min. Working up as described in Example 21 F) 1) a) yields the title compound: 1H-NMR (200 MHz, CDCl3 : 4.48 (s, 2 H), 5.06 (s, 2 H), 6.85-6.95 (m, 2 H), 7.25-7.48 (m, 7 H).

reactant | 4-benzyloxybenzyl chloride | 4.3 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | sodium iodide | 20.9 mmol, 3.13 g | [I-].[Na+]
solvent | acetone | 8 ml | CC(=O)C | C3H6O
product | p-Benzyloxybenzyl Iodide | C(C1=CC=CC=C1)OC1=CC=C(CI)C=C1 | C14H13IO
